US04308259
(a) 2-(3-Chlorophenyl)-2-sulphoacetyl chloride
A solution of 3-chlorophenylacetyl chloride (1.89 g, 10 mmole) in dichloromethane (20 ml) was treated with a suspension of sulphur trioxide--dioxane complex (15 mmole) in dichloroethane at 0° C. The mixture was stirred at room temperature for eighteen hours and evaporated, νmax. (CH2Cl2) 1790 cm-1.

reactant | 3-chlorophenylacetyl chloride | 10 mmole, 1.89 g | ClC=1C=C(C=CC1)CC(=O)Cl | C8H6Cl2O
reactant | sulphur trioxide | S(=O)(=O)=O | O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 2-(3-Chlorophenyl)-2-sulphoacetyl chloride | ClC=1C=C(C=CC1)C(C(=O)Cl)S(=O)(=O)O | C8H6Cl2O4S
